US06399603B1
(2-(4-Fluorophenyl)amino-4-hydroxy-6-nitroquinazolin-8-yl)-N-(2-(pyridin-3-yl)ethyl)carboxamide.
A suspension of 2-(4-fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylic acid (41.1 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (23.3 mg), 1-hydroxybenzotriazole hydrate (15.6 mg), and potasium cabonate (16.3 mg) in DMF (2.00 mL) was stirred for 5 minutes and then briefly (15 seconds) heated with a heat gun. The solution was allowed to return to room temperature over 10 minutes of stirring and then 3-(2-aminoethyl)pyridine (17.0 mg) was added. After stirring for an additional 18 hours the resulting mixture was transfered into a centrifuge tube and water (20 mL) was added. A yellow precipitate formed and was the suspension was centrifuged. The aqueous layer was decanted away from the yellow pellet in the bottom of the tube. The yellow pellet was then resuspended in water (20 mL), centrifuged, and decanted two additional times. The resulting yellow pellet was dried in vacuo at 40° C. for 16 h to afford the title compound (35.0 mg). 1H NMR (300 MHz, DMSO-d6 (w/TFA (50 uL,)): 8.97 (d, J=3.0 Hz, 1H), 8.81 (m, 2H), 8.75 (s, 1H), 8.35 (d, J=8.3 Hz, 1H), 7.98 (dd, J=8.1, 5.9 Hz, 1H), 7.50 (dd, J=8.9, 5.0 Hz, 2H), 7.32 (t, J=8.7 Hz, 2H), 3.50 (m, 2H), 2.84 (m, 2H). HPLC (Method G): 1.59 min. MS (APCI+): m/z 449.

reactant | 2-(4-fluorophenyl)amino-4-hydroxy-6-nitroquinazoline-8-carboxylic acid | 41.1 mg | FC1=CC=C(C=C1)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)O | C15H9FN4O5
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 23.3 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 15.6 mg | O.ON1N=NC2=C1C=CC=C2
reactant | potasium cabonate | 16.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-aminoethyl)pyridine | 17.0 mg | NCCC=1C=NC=CC1 | C7H10N2
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | (2-(4-Fluorophenyl)amino-4-hydroxy-6-nitroquinazolin-8-yl)-N-(2-(pyridin-3-yl)ethyl)carboxamide | 35.0 mg | FC1=CC=C(C=C1)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)NCCC=1C=NC=CC1 | C22H17FN6O4
